US06838463B2
A reaction vessel was charged with [1,1′-bis(diphenylphosphino)ferrocene dichloropalladium]methylene chloride complex, 1.007 g of 2,6-difluorophenylboronic acid, and 2.707 g of tripotassium phosphate n-hydrate, to which 16 ml of 1,2-dimethoxyethane, 4 ml of water, and 0.95 g of 4,6-dichloropyrimidine were added, followed by stirring at 80° C. under an atmosphere of a nitrogen gas for 5 hours. The reaction mixture was then left for cooling to room temperature, and water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.241 g of 4-chloro-6-(2,6-difluorophenyl)pyrimidine.

reactant | 2,6-difluorophenylboronic acid | 1.007 g | FC1=C(C(=CC=C1)F)B(O)O | C6H5BF2O2
reactant | 1,2-dimethoxyethane | 16 ml | COCCOC | C4H10O2
reactant | 4,6-dichloropyrimidine | 0.95 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
solvent | water | O | H2O
solvent | water | 4 ml | O | H2O
product | 4-chloro-6-(2,6-difluorophenyl)pyrimidine | 0.241 g | ClC1=NC=NC(=C1)C1=C(C=CC=C1F)F | C10H5ClF2N2
